US07534797B2
2-Phenylquinolin-7-ol
To a solution of 7-(tert-butyldimethylsilyloxy)quinoline (3.992 g, 15.39 mmol) in dry THF (35 mL), cooled by ice/water, was added phenyllithium (1.8 M in cyclohexane:ether 70:30, 10 mL, 18 mmol). The solution slowly warmed up to ambient temperature and was stirred overnight. More phenyllithium (1.0 mL, 1.8 mmol) was added, and stirring was continued for 4 h. The reaction was quenched by adding saturated NH4Cl solution and water. Most of the THF was evaporated, the residue was extracted with EtOAc (4×30 mL) and the combined EtOAc layers were washed with water (2×) and brine and dried over MgSO4. LC/MS indicated that a significant amount of the TBDMS ether had been cleaved during the workup, the ratio of quinolines to dihydroquinolines was about 1:1. Air was bubbled into the solution overnight, the MgSO4 was filtered off, the filtrate was concentrated, dissolved in MeOH, aq. HCl (2 M, 2 mL, 4 mmol) was added, and the solution was stirred at ambient temperature overnight. Sat. NaHCO3 solution was added, most of the MeOH was evaporated, water (≈100 mL) was added, and the dark brown precipitate was filtered off and washed with more water. The combined filtrate and washings were extracted with EtOAc (4×60 mL), the combined EtOAc extracts were washed with water and brine and dried over MgSO4. The dark brown precipitate was dissolved in MeOH (≈100 mL), the solution was filtered, and the filtrate was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 50 g/150 mL cartridge, eluting with CH2Cl2→5% EtOAc in CH2Cl2→10% EtOAc→15% EtOAc]. The mixed fractions were combined with the crude material from the EtOAc extracts and chromatographed on silica gel [Jones Flashmaster, material adsorbed onto Hydromatrix, 10 g/70 mL cartridge, eluting with CH2Cl2→5% EtOAc in CH2Cl2→7.5% EtOAc]. Combination of pure fractions of both columns gave the title compound as light beige solid; 1H NMR (DMSO-d6, 400 MHz) δ 7.15 (dd, J=8.8, 2.4 Hz, 1H), 7.29 (d, J=2.4 Hz, 1H), 7.45-7.51 (m, 1H), 7.51-7.57 (m, 2H), 7.83 (d, J=8.8 Hz, 1H), 7.89 (d, J=8.8 Hz, 1H), 8.20-8.25 (m, 2H), 8.29 (d, J=8.8 Hz, 1H), 10.19 (s, 1H); MS (ES+): m/z 222.1 (100) [MH+]; HPLC: tR=2.2 min (OpenLynx, polar—5 min).

reactant | 7-(tert-butyldimethylsilyloxy)quinoline | 15.39 mmol, 3.992 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C2C=CC=NC2=C1 | C15H21NOSi
reactant | phenyllithium | 18 mmol, 1.8 M, 10 mL | C1(=CC=CC=C1)[Li]
reactant | phenyllithium | 1.8 mmol, 1.0 mL | C1(=CC=CC=C1)[Li]
reactant | HCl | 4 mmol, 2 M, 2 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 2-Phenylquinolin-7-ol | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)O | C15H11NO
